US07897619B2
2-Bromothiazole-5-carboxylic acid:
To a 25 mL round-bottomed flask at 0° C. was added ethyl 2-bromothiazole-5-carboxylate (0.633 mL, 4.24 mmol) (commercially available from Aldrich), MeOH (4.25 mL, 4.25 mmol), and sodium hydroxide (2.5 M, 1.88 mL, 4.23 mmol). After 3 hours, 3.5 mL 1 N HCl was added and a white precipitate formed. The MeOH was evaporated by rotary evaporation. The white solid was sonicated with water (20 mL) and filtered washing with water (50 mL). The solid material was dried in a vacuum oven at 60° C. to provide the product (0.69 g, 79%) as a white crystalline solid. LCMS (API-ES) m/z (%): 208 (100%, M−H).

reactant | ethyl 2-bromothiazole-5-carboxylate | 4.24 mmol, 0.633 mL | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
reactant | MeOH | 4.25 mmol, 4.25 mL | CO | CH4O
reactant | sodium hydroxide | 4.23 mmol, 2.5 M, 1.88 mL | [OH-].[Na+]
reactant | HCl | 1 N, 3.5 mL | Cl | ClH
product | 2-Bromothiazole-5-carboxylic acid | 0.69 g, 79% | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
